US08309580B2
(1) methyl 3-amino-2-hydroxypropanoate hydrochloride
To a solution of 3-amino-2-hydroxypropanoic acid (0.7 g) in methanol (15 mL) was added thionyl chloride (2.5 mL) at 0° C., and the mixture was stirred at 0° C. for 2 hr and then at room temperature overnight. The solvent was evaporated under reduced pressure to give the title compound (1.6 g, 100%) as an oil.

reactant | 3-amino-2-hydroxypropanoic acid | 0.7 g | NCC(C(=O)O)O | C3H7NO3
reactant | thionyl chloride | 2.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 15 mL | CO | CH4O
product | methyl 3-amino-2-hydroxypropanoate hydrochloride | 1.6 g, 100% | Cl.NCC(C(=O)OC)O | InChI=1S/C4H9NO3.ClH/c1-8-4(7)3(6)2-5;/h3,6H,2,5H2,1H3;1H
